US08492548B2
3-(2-Bromoacetyl)benzonitrile (40.0 mg, 0.18 mmol) was added to a solution of (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate (diastereomer 1 of I2) (60 mg, 0.18 mmol) in EtOAc (2 ml). The reaction mixture was stirred at room temperature overnight (UPLC-MS: complete conversion). EtOAc was removed under vacuum, and the residue is triturated with Et2O. The solid was collected by suction filtration and dried at 40° C. for 48 hours to obtain the (R)-1-(2-(3-cyanophenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide (61.1 mg, 61% yield).

reactant | 3-(2-Bromoacetyl)benzonitrile | 0.18 mmol, 40.0 mg | BrCC(=O)C=1C=C(C#N)C=CC1 | C9H6BrNO
reactant | (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate | 0.18 mmol, 60 mg | C1(=CC=CC=C1)[C@H](C(=O)O[C@H]1CN2CCC1CC2)NC2=CC=CC=C2 | C21H24N2O2
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
product | (R)-1-(2-(3-cyanophenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide | 61.1 mg, 61% yield | [Br-].C(#N)C=1C=C(C=CC1)C(C[N+]12C[C@@H](C(CC1)CC2)OC([C@H](NC2=CC=CC=C2)C2=CC=CC=C2)=O)=O | InChI=1S/C30H30N3O3.BrH/c31-19-22-8-7-11-25(18-22)27(34)20-33-16-14-23(15-17-33)28(21-33)36-30(35)29(24-9-3-1-4-10-24)32-26-12-5-2-6-13-26;/h1-13,18,23,28-29,32H,14-17,20-21H2;1H/q+1;/p-1/t23?,28-,29+,33?;/m0./s1
